2151-12-31 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Corts 23.7, d/c steriods
   -US of ext and RUQ all negative
   -IV metoprolol given 5mg
   -Art line placed
   -Hypotensive to 80s, improved with 500 cc bolus, remains
   tachy-scheduled lopressor 5 mg IV with hold parameters
   -low grade given tylenol, and cultured
   -SW-rec calling wife and giving regular updates will follow for coping
   -ECHO: No vegetations seen. Mild to moderate left ventricular systolic
   dysfunction, c/w CAD. Moderate tricuspid regurgitation. Moderate
   pulmonary hypertension. Compared with the prior study (images reviewed)
   of [**2151-10-27**], biventricular function may have slightly declined.
   Ttricuspid regurgitation severity is higher and moderate pulmonary
   hypertension is new.
 TRANSTHORACIC ECHO - At [**2151-12-30**] 11:00 AM
 ULTRASOUND - At [**2151-12-30**] 01:00 PM
   ultra sound of the upper and lower extremities, also abdomen
 ARTERIAL LINE - START [**2151-12-30**] 03:00 PM
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2151-12-30**] 12:00 PM
   Ciprofloxacin - [**2151-12-30**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-12-31**] 12:17 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-12-31**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 91 (87 - 135) bpm
   BP: 101/52(70) {89/45(0) - 118/59(76)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  3,192 mL
                                                                    161 mL
   PO:
             TF:
   IVF:
                                                                    952 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,192 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General: Alert, oriented only to person, place, no acute distress
   HEENT: MMM dry, oropharynx clear
   Neck: supple, JVP not elevated
   Lungs: bronchial BS and expiratory wheezes over RLL, rhonchi and
   crackles over LLL base
   CV: Tachy and irreg, irreg, diff to apprec murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no RUQ tenderness
   Ext: cool extremities, dopplerable pedal pulses.  Ulcerative lesions
   scattered all over upper and lower extremiteis
   RUE edematous & LLE pretibial erthema, tenderness and warmth.
   Neuro: Oriented to person, place. Following commands intermittently but
   moving all extremities.  Sensation intact.
   Reflexes +1 throughout, strength 4+/5 in lower extremities
   RUE [**3-5**] all compartments and LUE [**4-4**]
   Labs / Radiology
   295 K/uL
   8.7 g/dL
   70 mg/dL
   5.5 mg/dL
   29 mEq/L
   4.4 mEq/L
   43 mg/dL
   105 mEq/L
   143 mEq/L
   29.2 %
   13.2 K/uL
        [image002.jpg]
                             [**2151-12-30**]  09:41 AM
                             [**2151-12-31**]  05:22 AM
   WBC
   15.9
   13.2
   Hct
   32.0
   29.2
   Plt
   334
   295
   Cr
   5.5
   Glucose
   70
   Other labs: PT / PTT / INR:24.4/43.0/2.4, ALT / AST:16/22, Alk Phos / T
   Bili:393/1.7, Differential-Neuts:79.7 %, Lymph:12.8 %, Mono:6.4 %,
   Eos:0.8 %, Albumin:2.9 g/dL, LDH:280 IU/L, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   71 y/o M with PMHx of CAD s/p CABG, Sys/Diastolic CHF, Afib, ESRD on HD
   s/p failed renal transplant in 03 who remains on prednisone taper, H/o
   C.Diff on po Vanc taper who was transferred with transient
   hypotension, MS changes and fever.
   .
   # Fever/Hypotension: Pt reports intermittent hypotension for the last
   few wks, assoc with HD. However, fever curve has been trending up in
   house.  Adrenal Insufficiency and multiple infectious sources possible:
   LLE suspicious for cellulitis, LFT abnormalities suggestive of
   obstructive cholestasis, cough and infiltrates concerning for PNA,
   raises concern for PCP in pt on chronic steroids, elevated LDH and not
   on PCP [**Name Initial (PRE) 1512**].  Infiltrates location suggestive of aspiration and MS
   compromised intermittently.  PT also has a h/o pulm nocardia.  Lower
   suspician for endocarditis but would consider Echo to eval valves given
   HD pt with one + blood Cx. Lower suspician for sinus infection given CT
   findings.  One blood Cx possible, unclear if true bacteremia vs
   contaminant. C diff neg yesterday.  Per primary, lower extremity
   findings unchanged from prior. Given all possibilities, suspect source
   is pulmonary.
   - send induced sputum for cultures
   - consider bronch with BAL
   - repeat blood Cx, f/u sensitivities
   - continue vanc dosed at HD & Zosyn for possible HAP
   - s/s eval, NPO for now given possible aspiration
   - would consider Bactrim until PCP ruled out
   - f/u RUQ u/s
   - cortisol stim test
   - consider TTE to r/o endocarditis
   - f/u ID recs
   - bolus IVF prn
   .
   # MS changes: Pt mildly confused but following commands, seems
   consistent with prior presentations when infected.  Suspect due to
   intermittent hypotension and systemic infection.  Concern for
   aspiration given intermittent confusion
   - aspiration precautions, NPO for now
   - s/s eval
   - d/w family regarding baseline
   .
   # LFT Abnormalites: Elevated LDH, Alk Phos, GGT & Tbili.  Denies any
   RUQ pain and RUQ ultrasound pending.  Differential includes obstructive
   cholestasis, acalculous cholecystitis, hemolysis, PCP, [**Name10 (NameIs) **] pulm
   process.
   - send induced sputum for PCP
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u RUQ u/s
   - f/u hemolysis labs
   .
   # Afib: Pt with h/o Afib on coumadin, intermittently in RVR.  Current
   rates in 110s.  Would prefer to avoid beta blockers given intermittent
   hypotension
   - continue Coumadin, INR pending
   - metoprolol 5mg IV prn persistently elevated rates >120
   - consider standing Metoprolol 12.5mg TID if BPs stable
   .
   # ESRD on HD: complicated renal history s/p failed transplant, apprec
   renal consult.
   - continue HD via fistula
   - continue Calcium Acetate TID
   - continue Prednisone 5mg daily (f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 45**] stim test)
   .
   # DM: NPO for now
   - continue half dose NPH 12units qam and NPH 4units qpm with HISS
   .
   # FEN: NPO for now, awaiting speech/swallow evaluation
   - bolus IVF prn to maintain MAP>65
   - replete electrolytes prn
   .
   # PPx: Systemically anticoagulated with INR of 2, PPI
   - bowel regimen prn
   .
   # Access: 2 PIV currently
   - consider IR guided PICC vs CVL
   .
   # Code: DNR/DNI
   .
   # Communication: Patient and family.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O DIABETES MELLITUS (DM), TYPE II
 DIABETES MELLITUS (DM), TYPE II
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-12-30**] 08:53 AM
   22 Gauge - [**2151-12-30**] 08:54 AM
   Arterial Line - [**2151-12-30**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-01-01 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2151-12-31**] 10:39 AM
 ARTERIAL LINE - STOP [**2152-1-1**] 12:12 AM
   [**2151-12-31**]:
   - failed speech/swallow & video-- Thick liquids, crush meds as able
   - Bronch deferred for attempted induced sputum
   - Midorine 10mg PO TID started
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2151-12-30**] 12:00 PM
   Ciprofloxacin - [**2151-12-31**] 03:27 PM
   Piperacillin/Tazobactam (Zosyn) - [**2152-1-1**] 12:07 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2151-12-31**] 08:40 AM
   Metoprolol - [**2152-1-1**] 04:05 AM
   Diltiazem - [**2152-1-1**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-1**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 116 (85 - 132) bpm
   BP: 144/25(58) {85/23(41) - 148/70(198)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,880 mL
                                                                     50 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                  1,080 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented only to person, place, no acute distress
   HEENT: MMM dry, oropharynx clear
   Neck: supple, JVP not elevated
   Lungs: bronchial BS and expiratory wheezes over RLL, rhonchi and
   crackles over LLL base
   CV: Tachy and irreg, irreg, diff to apprec murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no RUQ tenderness
   Ext: cool extremities, dopplerable pedal pulses.  Ulcerative lesions
   scattered all over upper and lower extremiteis
   RUE edematous & LLE pretibial erthema, tenderness and warmth.
   Neuro: Oriented to person, place. Following commands intermittently but
   moving all extremities.  Sensation intact.
   Reflexes +1 throughout, strength 4+/5 in lower extremities
   RUE [**3-5**] all compartments and LUE [**4-4**]
   Labs / Radiology
   371 K/uL
   9.1 g/dL
   150 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.4 mEq/L
   40 mg/dL
   104 mEq/L
   145 mEq/L
   31.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2151-12-30**]  09:41 AM
                             [**2151-12-31**]  05:22 AM
                             [**2152-1-1**]  03:04 AM
   WBC
   15.9
   13.2
   15.0
   Hct
   32.0
   29.2
   31.0
   Plt
   [**Telephone/Fax (3) 7731**]
   Cr
   5.5
   6.1
   4.4
   Glucose
   70
   155
   150
   Other labs: PT / PTT / INR:33.5/44.1/3.5, ALT / AST:20/40, Alk Phos / T
   Bili:383/1.2, Differential-Neuts:79.7 %, Lymph:12.8 %, Mono:6.4 %,
   Eos:0.8 %, Albumin:2.9 g/dL, LDH:280 IU/L, Ca++:8.1 mg/dL, Mg++:1.8
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   71 y/o M with PMHx of CAD s/p CABG, Sys/Diastolic CHF, Afib, ESRD on HD
   s/p failed renal transplant in 03 who remains on prednisone taper, H/o
   C.Diff on po Vanc taper who was transferred with transient
   hypotension, MS changes and fever.
   .
   # Fever/Hypotension: Pt reports intermittent hypotension for the last
   few wks, assoc with HD. However, fever curve has been trending up in
   house and leveling off at low grade temp.  Adrenal Insufficiency less
   likely given cortisol stim of 23.7.   Multiple infectious sources
   possible: LLE suspicious for cellulitis, LFT abnormalities suggestive
   of obstructive cholestasis, cough and infiltrates concerning for PNA,
   raises concern for PCP in pt on chronic steroids, elevated LDH and not
   on PCP [**Name Initial (PRE) 1512**].  Infiltrates location suggestive of aspiration and MS
   compromised intermittently.  PT also has a h/o pulm nocardia.  Lower
   suspician for endocarditis but would consider Echo to eval valves given
   HD pt with one + blood Cx. Lower suspician for sinus infection given CT
   findings.  One blood Cx possible, unclear if true bacteremia vs
   contaminant. C diff neg yesterday.  Per primary, lower extremity
   findings unchanged from prior. Given all possibilities, suspect source
   is pulmonary.  No endocarditis on ECHO.
   - Ask respiratory therapy to do NS neb to get induced sputum.
   - F/u on cx, consider BAL if no other non-invasive test productive
   - send induced sputum for cultures
   -  f/u ID recs
   - RUQ did not reveal source
   .
   # MS changes: Pt mildly confused but following commands, seems
   consistent with prior presentations when infected.  Suspect due to
   intermittent hypotension and systemic infection.  Concern for
   aspiration given intermittent confusion
   - aspiration precautions, NPO for now
   - s/s eval
   - d/w family regarding baseline
   .
   # LFT Abnormalites: Elevated LDH, Alk Phos, GGT & Tbili.  Denies any
   RUQ pain and RUQ ultrasound pending.  Differential includes obstructive
   cholestasis, acalculous cholecystitis, hemolysis, PCP, [**Name10 (NameIs) **] pulm
   process.  Hemolysis labs unremarkable
   - send induced sputum for PCP
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u RUQ u/s-no cause
   .
   # Afib: Pt with h/o Afib on coumadin, intermittently in RVR.  Current
   rates in 110s.  Would prefer to avoid beta blockers given intermittent
   hypotension
   - continue Coumadin, INR pending
   - discontinue metoprolol in setting of hypotension
   - consider standing Metoprolol 12.5mg TID if BPs stable
   .
   # ESRD on HD: complicated renal history s/p failed transplant, apprec
   renal consult.
   - HD via fistula today
   - continue Calcium Acetate TID
   - continue Prednisone 5mg daily (f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 45**] stim test)
   .
   # DM: NPO for now
   - d/c insulin while NPO because of low blood sugars despite
   replacemnts.
   .
   # FEN: NPO for now, awaiting speech/swallow evaluation
   - bolus IVF prn to maintain MAP>65
   - replete electrolytes prn
   .
   # PPx: Systemically anticoagulated with coumadin f , PPI
   - bowel regimen prn
   .
   # Access: 2 PIV currently
   -eval for PICC IR guided PICC
   .
   # Code: DNR/DNI
   .
   # Communication: Patient and family.
 DYSPHAGIA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O DIABETES MELLITUS (DM), TYPE II
 DIABETES MELLITUS (DM), TYPE II
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-12-30**] 08:53 AM
   PICC Line - [**2151-12-31**] 10:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-01-01 10:29:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo man with with CAD, ESRD, AF with RVR, admitted to hospital with
   HOTN and MS [**First Name (Titles) 7741**] [**Last Name (Titles) **].  Admitted to floor, where he was HOTNsive again
   and transferred to MICU.  Blood cx on [**12-28**] + for MRSA.  f/u blood cx.
   negative.  Failed S+S exam yesterday.  Had AF with RVR and received
   doses of dilt and lopressor
   24 Hour Events:
 PICC LINE - START [**2151-12-31**] 10:39 AM
 ARTERIAL LINE - STOP [**2152-1-1**] 12:12 AM
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2151-12-30**] 12:00 PM
   Ciprofloxacin - [**2151-12-31**] 03:27 PM
   Piperacillin/Tazobactam (Zosyn) - [**2152-1-1**] 12:07 AM
   Vancomycin - [**2152-1-1**] 08:30 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2152-1-1**] 04:05 AM
   Diltiazem - [**2152-1-1**] 08:40 AM
   Other medications:
   calcium acetate
   flovent
   amiodarone
   prednisone
   allopurinol
   neurontin
   lipitor
   asa
   folate
   vanco PO
   prilosec
   vanco IV
   albuterol/atrovent
   midodrine
   lopressor
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Musculoskeletal: left ankle pain
   Flowsheet Data as of  [**2152-1-1**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 119 (91 - 132) bpm
   BP: 111/65(75) {85/22(40) - 148/70(198)} mmHg
   RR: 25 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,880 mL
                                                                    589 mL
   PO:
                                                                    800 mL
                                                                    520 mL
   TF:
   IVF:
                                                                  1,080 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                    589 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : expiratory wheezes)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, left ankle tender, swollen, warm.
   Pain on movement.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   371 K/uL
   150 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.4 mEq/L
   40 mg/dL
   104 mEq/L
   145 mEq/L
   31.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2151-12-30**]  09:41 AM
                             [**2151-12-31**]  05:22 AM
                             [**2152-1-1**]  03:04 AM
   WBC
   15.9
   13.2
   15.0
   Hct
   32.0
   29.2
   31.0
   Plt
   [**Telephone/Fax (3) 7731**]
   Cr
   5.5
   6.1
   4.4
   Glucose
   70
   155
   150
   Other labs: PT / PTT / INR:33.5/44.1/3.5, ALT / AST:20/40, Alk Phos / T
   Bili:383/1.2, Differential-Neuts:79.7 %, Lymph:12.8 %, Mono:6.4 %,
   Eos:0.8 %, Albumin:2.9 g/dL, LDH:280 IU/L, Ca++:8.1 mg/dL, Mg++:1.8
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Staph bacteremia/HOTN/septic shock:  HOTN/shock has resolved.  On vanco
   for bacteremia.
   Left ankle pain:  septic joint, vs gout vs hemathrosis.  Will need
   needle aspiration.
   Coagulopathy:  Hold coumadin
   AF wtih RVR:  increase PO lopressor as currently on low dose.
   ESRD:  Next HD on monday
   DM II:  Back on home insulin regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-12-31**] 10:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2152-01-02 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given Diltiazem 10mg IV once this AM with good response of HR,
   increased Metoprolol to 25mg TID
   - Ortho consulted for ankle swelling.  Because elevated INR, blood
   collection on superficial collection, decided not to tap ankle.  X-rays
   do not show any evidence of pseudogout
   - Somewhat more somnolent overnight, however easily arousable-c/o cough
   and SOB this AM
   - On AM rounds, tachy to 160s after albuterol neb-started on dilt
   drip.
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2152-1-1**] 08:30 AM
   Piperacillin - [**2152-1-1**] 12:30 PM
   Ciprofloxacin - [**2152-1-1**] 01:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2152-1-2**] 12:30 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2152-1-2**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-2**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36
C (96.8
   HR: 149 (94 - 149) bpm
   BP: 134/81(87) {100/13(33) - 140/109(113)} mmHg
   RR: 27 (15 - 33) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  2,218 mL
                                                                    118 mL
   PO:
                                                                  1,800 mL
             TF:
   IVF:
                                                                    418 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,218 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 88%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented only to person, place, no acute distress
   HEENT: MMM dry, oropharynx clear
   Neck: supple, JVP not elevated
   Lungs: bronchial BS and expiratory wheezes over RLL, rhonchi and
   crackles over LLL base
   CV: Tachy and irreg, irreg, diff to apprec murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no RUQ tenderness
   Ext: cool extremities, dopplerable pedal pulses.  Ulcerative lesions
   and ecchymoses scattered all over upper and lower extremities, RUE
   edematous & LLE pretibial erthema, tenderness and warmth with swelling
   over lateral ankle and pustules-ruptured with purulent material exuding
   from break in skin distal to lateral malleolus+.
   Neuro: Oriented to person, place, time. Following commands
   intermittently but moving all extremities.  Sensation intact.
   Reflexes +1 throughout, strength 4+/5 in lower extremities RUE [**3-5**] all
   compartments and LUE [**4-4**]
   Labs / Radiology
   334 K/uL
   9.1 g/dL
   111 mg/dL
   5.5 mg/dL
   26 mEq/L
   4.7 mEq/L
   54 mg/dL
   101 mEq/L
   139 mEq/L
   30.5 %
   13.3 K/uL
        [image002.jpg]
                             [**2151-12-30**]  09:41 AM
                             [**2151-12-31**]  05:22 AM
                             [**2152-1-1**]  03:04 AM
                             [**2152-1-2**]  03:35 AM
   WBC
   15.9
   13.2
   15.0
   13.3
   Hct
   32.0
   29.2
   31.0
   30.5
   Plt
   [**Telephone/Fax (3) 7769**]34
   Cr
   5.5
   6.1
   4.4
   5.5
   Glucose
   70
   155
   150
   111
   Other labs: PT / PTT / INR:27.7/43.6/2.8, ALT / AST:20/40, Alk Phos / T
   Bili:383/1.2, Differential-Neuts:79.7 %, Lymph:12.8 %, Mono:6.4 %,
   Eos:0.8 %, Albumin:2.9 g/dL, LDH:280 IU/L, Ca++:7.7 mg/dL, Mg++:1.9
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   71 y/o M with PMHx of CAD s/p CABG, Sys/Diastolic CHF, Afib, ESRD on HD
   s/p failed renal transplant in 03 who remains on prednisone taper, H/o
   C.Diff on po Vanc taper who was transferred with transient
   hypotension, MS changes and fever.
   .
   # Fever/Hypotension:  Most likely secondary to MRSA bacteremia, [**1-3**]
   bottles positive from [**2151-12-28**].  No endocarditis on TTE, consider TEE
   given high grade bacteremia.  However, the patient also complains of
   new left sided ankle pain with erythema, effusion and question of
   pustules on left lower extremity concerning for septic joint vs.
   osteomylelitis.  Febrile this morning on rounds, CXR consistent with
   previous X rays, making ankle more likely source
   - F/u blood, sputum, urine cultures
   - f/u ID recs
   - Continue vancomycin dosed at HD, cipro and zosyn for possible other
   sources of nosocomial infection
   - Consult Ortho for possible joint tap-will give FFP today to try to
   get INR below 2.0
   - MRI today to eval for extension
   .
   # MS changes:  Much improved mental status.  Likely secondary to MRSA
   bacteremia.
   - aspiration precautions, failed speech and swallow
 dysphagia, thick
   liquids, crush meds as able
   .
   # LFT Abnormalites:  Elevated LDH, Alk Phos, GGT & Tbili, improving.
   Denies any RUQ pain and RUQ ultrasound pending.  Differential includes
   obstructive cholestasis, acalculous cholecystitis, hemolysis, PCP, [**Name10 (NameIs) **]
   pulm process.  Hemolysis labs unremarkable
   - attempt to collect another sputum sample
   - f/u RUQ u/s-no cause
   - Check LFTs QOD
   .
   # Afib: Pt with h/o Afib on coumadin, intermittently in RVR overnight.
   Current rates in 110s.   Received multiple doses of metoprolol
   overnight with no effect.  Some improvement with diltiazem.
   - Discontinue metoprolol
   - continue dilt drip until heart rate controlled then transition to PO
   - INR 3.5, holding coumadin, may require FFP for joint tap
   .
   # ESRD on HD: complicated renal history s/p failed transplant, apprec
   renal consult.
   - HD via fistula-will get HD today
   - continue Calcium Acetate TID
   - continue Prednisone 5mg daily (f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 45**] stim test), consider
   stopping, will discuss with renal team
   .
   # DM: dysphagia diet, thickened liquids
   -          Restart home insulin regimen now that restarted diet
   .
   # FEN: dysphagia diet, thickened liquids
   - bolus IVF prn to maintain MAP>65
   - replete electrolytes prn
   .
   # PPx: Systemically anticoagulated with coumadin, PPI
   - bowel regimen prn
   .
   # Access:  PICC in place
   .
   # Code: DNR/DNI
   .
   # Communication: Patient and family.
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DYSPHAGIA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O DIABETES MELLITUS (DM), TYPE II
 DIABETES MELLITUS (DM), TYPE II
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-12-31**] 10:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-01-02 11:20:00 Physician Attending Progress Note
Chief Complaint: septicemia/HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo man with h/o prior CABG, ESRD on HD, sysolic/diastolic HF, failed
   renal transplant.  Admitted from floor with HOTN/fevers.  Ankle
   swelling ruptured and draining pus.  This AM feeling SOB/wheezing,
   febrile to 101.6
   24 Hour Events:
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2152-1-1**] 08:30 AM
   Piperacillin - [**2152-1-1**] 12:30 PM
   Ciprofloxacin - [**2152-1-1**] 01:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2152-1-2**] 12:30 AM
   Infusions:
   Diltiazem - 3 mg/hour
   Other ICU medications:
   Diltiazem - [**2152-1-2**] 09:20 AM
   Other medications:
   tylenol
   calcium
   flovent
   amiodarone
   prednisone
   allopurinol
   gabapentin
   lipitor
   asa
   folate
   vanco po
   midodrine
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-2**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.6
   HR: 108 (94 - 151) bpm
   BP: 102/47(56) {76/13(33) - 140/109(113)} mmHg
   RR: 21 (16 - 33) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  2,218 mL
                                                                    198 mL
   PO:
                                                                  1,800 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    418 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,218 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : b/l, Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, left malleolar wound.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   334 K/uL
   111 mg/dL
   5.5 mg/dL
   26 mEq/L
   4.7 mEq/L
   54 mg/dL
   101 mEq/L
   139 mEq/L
   30.5 %
   13.3 K/uL
        [image002.jpg]
                             [**2151-12-30**]  09:41 AM
                             [**2151-12-31**]  05:22 AM
                             [**2152-1-1**]  03:04 AM
                             [**2152-1-2**]  03:35 AM
   WBC
   15.9
   13.2
   15.0
   13.3
   Hct
   32.0
   29.2
   31.0
   30.5
   Plt
   [**Telephone/Fax (3) 7769**]34
   Cr
   5.5
   6.1
   4.4
   5.5
   Glucose
   70
   155
   150
   111
   Other labs: PT / PTT / INR:27.7/43.6/2.8, ALT / AST:20/40, Alk Phos / T
   Bili:383/1.2, Differential-Neuts:79.7 %, Lymph:12.8 %, Mono:6.4 %,
   Eos:0.8 %, Albumin:2.9 g/dL, LDH:280 IU/L, Ca++:7.7 mg/dL, Mg++:1.9
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Fever/HOTN:  BP has been stable, but is now tachycardic.
   Respiratory distress:  Somewhat SOB, weight is up suggesting fluid
   overload.
   left LE infection:  Will get FFP today to allow for orthopedic
   athrocentesis of ankle.  Will potentially need imaging of LE given
   possibility of soft tissue pus collection with MRI.
   Afib with RVR:  Better controlled HR on dilt drip.
   coagulopathy:  Getting 2U FFP for tap.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-12-31**] 10:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2152-01-03 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Dilt drip effective-HR <100, discontinued metoprolol, consider
   converting to PO dilt in AM
   - Got HD
   - Ankle Gram stain positive for GPCs in pairs and clusters-superficial
   sample (on vanc), INR reversed, ankle tapped-Cx, Crystals, sent, had to
   instill saline, so cell count not sent
   - Crystals on Ankle showed:negative bifringe.
   - MRI of ankle:bumped for emergencies
   - Ortho rec: Rheum consult, consider podiatry in AM
   - Uric acid-6.9
   - Started Colchicine
   - Noted to be on PO vanc taper-consider strateqy in AM to solidify
   taper regimen
 WOUND CULTURE - At [**2152-1-2**] 08:30 AM
   L lateral ankle
 BLOOD CULTURED - At [**2152-1-2**] 09:15 AM
 WOUND CULTURE - At [**2152-1-2**] 10:15 AM
   L lateral ankle, sent for ? crystals per ortho
 FEVER - 101.7
F - [**2152-1-2**] 09:00 AM
   Allergies:
   Mevacor (Oral) (Lovastatin)
   hair loss;
   Pravachol (Oral) (Pravastatin Sodium)
   Hepatic toxicit
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Adhesive Tape (Topical)
   Skin breakdown;
   Linezolid
   Unknown;
   Clindamycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2152-1-2**] 11:45 AM
   Ciprofloxacin - [**2152-1-2**] 12:15 PM
   Vancomycin - [**2152-1-2**] 08:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2152-1-3**] 12:21 AM
   Infusions:
   Diltiazem - 3 mg/hour
   Other ICU medications:
   Diltiazem - [**2152-1-2**] 09:20 AM
   Heparin Sodium (Prophylaxis) - [**2152-1-2**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-3**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.2
C (97.2
   HR: 95 (89 - 151) bpm
   BP: 133/32(60) {76/26(48) - 140/100(106)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,562 mL
                                                                    137 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                    516 mL
                                                                    137 mL
   Blood products:
                                                                    536 mL
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,438 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented only to person, place, no acute distress
   HEENT: MMM dry, oropharynx clear
   Neck: supple, JVP not elevated
   Lungs: bronchial BS and expiratory wheezes over RLL, rhonchi and
   crackles over LLL base
   CV: Tachy and irreg, irreg, diff to apprec murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no RUQ tenderness
   Ext: cool extremities, dopplerable pedal pulses.  Ulcerative lesions
   and ecchymoses scattered all over upper and lower extremities, RUE
   edematous & LLE pretibial erthema, tenderness and warmth with swelling
   over lateral ankle and pustules-ruptured with purulent material exuding
   from break in skin distal to lateral malleolus+.
   Neuro: Oriented to person, place, time. Following commands
   intermittently but moving all extremities.  Sensation intact.
   Reflexes +1 throughout, strength 4+/5 in lower extremities RUE [**3-5**] all
   compartments and LUE [**4-4**]
   Labs / Radiology
   313 K/uL
   8.1 g/dL
   125 mg/dL
   6.3 mg/dL
   27 mEq/L
   4.8 mEq/L
   67 mg/dL
   100 mEq/L
   138 mEq/L
   27.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2151-12-30**]  09:41 AM
                             [**2151-12-31**]  05:22 AM
                             [**2152-1-1**]  03:04 AM
                             [**2152-1-2**]  03:35 AM
                             [**2152-1-2**]  04:35 PM
                             [**2152-1-3**]  03:38 AM
   WBC
   15.9
   13.2
   15.0
   13.3
   14.5
   Hct
   32.0
   29.2
   31.0
   30.5
   27.3
   Plt
   [**Telephone/Fax (3) 7769**]34
   313
   Cr
   5.5
   6.1
   4.4
   5.5
   6.0
   6.3
   Glucose
   70
   155
   150
   111
   167
   125
   Other labs: PT / PTT / INR:22.0/43.2/2.1, ALT / AST:20/40, Alk Phos / T
   Bili:383/1.2, Differential-Neuts:79.7 %, Lymph:12.8 %, Mono:6.4 %,
   Eos:0.8 %, Albumin:2.9 g/dL, LDH:280 IU/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   71 y/o M with PMHx of CAD s/p CABG, Sys/Diastolic CHF, Afib, ESRD on HD
   s/p failed renal transplant in 03 who remains on prednisone taper, H/o
   C.Diff on po Vanc taper who was transferred with transient
   hypotension, MS changes and fever.
   .
   # Fever/Hypotension:  Most likely secondary to MRSA bacteremia, [**1-3**]
   bottles positive from [**2151-12-28**].  No endocarditis on TTE, consider TEE
   given high grade bacteremia.  However, the patient also complains of
   new left sided ankle pain with erythema, effusion and question of
   pustules on left lower extremity concerning for septic joint vs.
   osteomylelitis.  Febrile this morning on rounds, CXR consistent with
   previous X rays, making ankle more likely source
   - F/u blood, sputum, urine cultures
   - f/u ID recs
   - Continue vancomycin dosed at HD, cipro and zosyn for possible other
   sources of nosocomial infection
   - Consult Ortho for possible joint tap-will give FFP today to try to
   get INR below 2.0
   - MRI today to eval for extension
   .
   # MS changes:  Much improved mental status.  Likely secondary to MRSA
   bacteremia.
   - aspiration precautions, failed speech and swallow
 dysphagia, thick
   liquids, crush meds as able
   .
   # LFT Abnormalites:  Elevated LDH, Alk Phos, GGT & Tbili, improving.
   Denies any RUQ pain and RUQ ultrasound pending.  Differential includes
   obstructive cholestasis, acalculous cholecystitis, hemolysis, PCP, [**Name10 (NameIs) **]
   pulm process.  Hemolysis labs unremarkable
   - attempt to collect another sputum sample
   - f/u RUQ u/s-no cause
   - Check LFTs QOD
   .
   # Afib: Pt with h/o Afib on coumadin, intermittently in RVR overnight.
   Current rates in 110s.   Received multiple doses of metoprolol
   overnight with no effect.  Some improvement with diltiazem.
   - Discontinue metoprolol
   - continue dilt drip until heart rate controlled then transition to PO
   - INR 3.5, holding coumadin, may require FFP for joint tap
   .
   # ESRD on HD: complicated renal history s/p failed transplant, apprec
   renal consult.
   - HD via fistula-will get HD today
   - continue Calcium Acetate TID
   - continue Prednisone 5mg daily (f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 45**] stim test), consider
   stopping, will discuss with renal team
   .
   # DM: dysphagia diet, thickened liquids
   -          Restart home insulin regimen now that restarted diet
   .
   # FEN: dysphagia diet, thickened liquids
   - bolus IVF prn to maintain MAP>65
   - replete electrolytes prn
   .
   # PPx: Systemically anticoagulated with coumadin, PPI
   - bowel regimen prn
   .
   # Access:  PICC in place
   .
   # Code: DNR/DNI
   .
   # Communication: Patient and family.
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DYSPHAGIA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O DIABETES MELLITUS (DM), TYPE II
 DIABETES MELLITUS (DM), TYPE II
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-12-31**] 10:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: